US05670517
3-1) Preparation of 2-amino-3-methyl-1-phenylbutane hydrochloride
To 13.8 g (0.2 mol) of isobutyronitrile dissolved in 50 ml of anhydrous tetrahydrofuran(THF) was added 110 ml (0.22 mol) of 2.0M benzylmagnesiumchloride at room temperature, and the resulting mixture was refluxed for 1 hour and cooled to room temperature. Subsequently, 200 ml of methanol and 11.4 g (0.3 mol) of NaBH4 were added thereto and stirred for 1 hour at room temperature. The resultant was adjusted to about pH 11 by adding 1N HCl. The above mixture was extracted with chloroform and dried over anhydrous Na2SO4, and methanolic HCl was added to obtain 37.5 g of the title compound(yield 94%).

reactant | isobutyronitrile | 0.2 mol, 13.8 g | C(C(C)C)#N | C4H7N
reactant | benzylmagnesiumchloride | 0.22 mol, 2.0M, 110 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | NaBH4 | 0.3 mol, 11.4 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 2-amino-3-methyl-1-phenylbutane hydrochloride | 37.5 g, yield 94% | Cl.NC(CC1=CC=CC=C1)C(C)C | InChI=1S/C11H17N.ClH/c1-9(2)11(12)8-10-6-4-3-5-7-10;/h3-7,9,11H,8,12H2,1-2H3;1H
